US05994356
(35) 4-(4-Methoxycarbonylmethyloxyphenyl)-1-[2-(piperidin-4-yl)ethyl]piperidine dihydrochloride
Prepared from 1-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-4-(4-methoxycarbonylmethyloxyphenyl)piperidine and ethereal hydrochloric acid.

reactant | 1-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-4-(4-methoxycarbonylmethyloxyphenyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCC(CC1)C1=CC=C(C=C1)OCC(=O)OC | C26H40N2O5
reactant | hydrochloric acid | Cl | ClH
product | 4-(4-Methoxycarbonylmethyloxyphenyl)-1-[2-(piperidin-4-yl)ethyl]piperidine dihydrochloride | Cl.Cl.COC(=O)COC1=CC=C(C=C1)C1CCN(CC1)CCC1CCNCC1 | InChI=1S/C21H32N2O3.2ClH/c1-25-21(24)16-26-20-4-2-18(3-5-20)19-9-14-23(15-10-19)13-8-17-6-11-22-12-7-17;;/h2-5,17,19,22H,6-16H2,1H3;2*1H
